US07989449B2
4-[1-(3-Bromo-phenyl)-vinyl]-phenol
A solution of n-butyllithium (1.6 M solution in hexane, 41.6 mL, 1.1 eq) was added dropwise to a solution of 1,3-dibromobenzene (7.6 mL, 1.1 eq) in tetrahydrofuran (30 mL) at −78° C. After stirring 30 min at −78° C. 1-[4-(tetrahydro-pyran-2-yloxy)-phenyl]-ethanone (12.6 g, 57 mmol, 1 eq) in tetrahydrofuran (25 mL) was added dropwise. The mixture was allowed to warm up to room temperature and stirred for 2 h, then treated with 1 N HCl (10 mL), extracted with ethyl acetate, dried (sodium sulfate) and concentrated in vacuo. The crude was dissolved in toluene (40 mL) and p-toluenesulfonic acid (50 mg) was added. The mixture was heated at 150° C. for 3 h. The solvent was removed under reduce pressure and the residue was purified by column chromatography (cyclohexane) to afford the title compound as a colorless oil (1.2 g, 10%);

reactant | n-butyllithium | 1.6 M, 41.6 mL, 1.1 eq | C(CCC)[Li]
reactant | 1,3-dibromobenzene | 7.6 mL, 1.1 eq | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | 1-[4-(tetrahydro-pyran-2-yloxy)-phenyl]-ethanone | 57 mmol, 12.6 g, 1 eq | O1C(CCCC1)OC1=CC=C(C=C1)C(C)=O | C13H16O3
reactant | HCl | 1 N, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-[1-(3-Bromo-phenyl)-vinyl]-phenol | 1.2 g, 10% | BrC=1C=C(C=CC1)C(=C)C1=CC=C(C=C1)O | C14H11BrO
